US04192944
A solution of 2-chloro-5-phenylpyridine (4.0 g., 0.021 mole) in dry diethyl ether (160 ml.) was added dropwise to a solution of sodium (3.39 g., 0.15 g-atom) in liquid ammonia (160 ml.) containing ferrous nitrate hexahydrate (0.095 g.). The resulting suspension was allowed to reflux for 4 hours. Ammonium chloride was added and the ammonia allowed to evaporate. The residue was treated with 5% aqueous sodium hydroxide (5 ml.). The mixture was filtered. The aqueous layer was extracted with ether (2×100 ml.). The combined ethereal layers were washed with brine and dried over sodium sulfate. The solution was concentrated and the residue recrystallized from methylcyclohexane. The product was triturated with chloroform (100 ml.). The mixture was filtered and the filtrate evaporated to give 2-amino-5-phenylpyridine (1.3 g., 36%), m.p. 133°-135° (lit. m.p. 133° in Chem. Ber., 91, 247 (1958).

reactant | 2-chloro-5-phenylpyridine | 0.021 mole, 4.0 g | ClC1=NC=C(C=C1)C1=CC=CC=C1 | C11H8ClN
reactant | sodium | 3.39 g | [Na] | Na
reactant | ammonia | 160 ml | N | H3N
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
product | 2-amino-5-phenylpyridine | 1.3 g, 36% | NC1=NC=C(C=C1)C1=CC=CC=C1 | C11H10N2
